US03947434
B. 3,4-di(sec-amyloxy)nitrobenzene
To a mixture of 300 ml. of conc. HNO3 and 300 ml. of H2O was added dropwise 80 g. (0.32 m.) of o-di(sec-amyloxy)benzene (part A) while maintaining a temperature of 10°C. Stirring was continued for an additional 60 minutes at 10°C, then the solution was poured into 2000 ml. addition was poured into 2000 ml. of ice. The aqueous layer was decanted, and the red oil was dissolved in benzene, dried over anhydrous MgSO4 and concentrated to dryness in vacuo. A chromatographic column 32 inches long with O.D. 3/4 inch, was packed with 20 inches of neutral alumina. The crude product was dissolved in a 250 ml. mixture of 50/50 CHCl3 and CCl4. After the solution was placed on the column, it was washed several times with the same solvent mixture. The first fraction was collected and concentrated to dryness in vacuo to yield 10 g. of amber-colored oil.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | o-di(sec-amyloxy)benzene | C(C)(CCC)OC1=C(C=CC=C1)OC(C)CCC | C16H26O2
solvent | H2O | O | H2O
product | 3,4-di(sec-amyloxy)nitrobenzene | C(C)(CCC)OC=1C=C(C=CC1OC(C)CCC)[N+](=O)[O-] | C16H25NO4
